* /home/saurabh/esim-workspace/74ls04-test/74ls04-test.cir

.include 74LS04.sub
.include INVCMOS.sub
v2 net-_x1-pad14_ gnd  dc 0.7
v1  in1 gnd pulse(0 5 0 0 0 14e-9 28e-9)
r2  in1 net-_r2-pad2_ 1k
* u2  out1 plot_v1
* u1  in1 plot_v1
r1  out1 gnd 2k
x1 net-_r2-pad2_ out1 net-_r2-pad2_ out2 ? ? gnd ? ? ? ? yu yu net-_x1-pad14_ 74LS04
r3  out2 gnd 2k
* u3  out2 plot_v1
* u4  yu plot_v1
* u6  dum plot_v1
x2 dum dum INVCMOS
.tran 10e-12 100e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1)
plot v(in1)
plot v(out2)
plot v(yu)
plot v(dum)
.endc
.end
