* /home/sysad/downloads/esim-1.1.3/examples/74ls04-test/74ls04-test.cir

.include 74LS04.sub
v2 net-_x1-pad14_ gnd  dc 5
v1  in1 gnd pulse(0 5 0 0 0 250e-7 500e-7)
r2  in1 net-_r2-pad2_ 1k
* u2  out1 plot_v1
* u1  in1 plot_v1
r1  out1 gnd 2k
x1 net-_r2-pad2_ out1 net-_r2-pad2_ out2 ? ? gnd ? ? ? ? ? ? net-_x1-pad14_ 74LS04
r3  out2 gnd 2k
* u3  out2 plot_v1
.tran 1e-06 100e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1)
plot v(in1)
plot v(out2)
.endc
.end
